US05196502
Preparation of 3,4,5-triacetoxybenzoic Acid
In a one liter round bottom flask, with a magnetic stirrer, were combined gallic acid (170.1 g, 1.0 mole) and acetic anhydride (566 ml, 6 moles). The slurry was stirred as sulfuric acid (1.06 ml) was added. The temperature rose rapidly from 21° C. to 75° C. over about 1 minute and the slurry became a clear yellow solution. The mixture was stirred and allowed to cool to ambient temperature over 20 minutes. The solution was then poured into a stirred, four liter Erlenmeyer flask containing three liters of water. After 2.5 hours, white crystalline product was isolated by filtration and washed 3 times with 500 milliliters of water. The product was dried in a stream of air for 3 hours and then vacuum dried overnight. Yield was 262 grams, which was 88% of theoretical yield. Melting point was 166°-168° C. NMR conducted as in the preceeding preparation, but using (CDCl3) gave as peaks, in ppm: 2.30 (s, 9H), 7.86 (s, 2H), 11.95 (broad, 1H).

reactant | gallic acid | 1.0 mole, 170.1 g | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | acetic anhydride | 6 moles, 566 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 1.06 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | three liters | O | H2O
product | 3,4,5-triacetoxybenzoic Acid | C(C)(=O)OC=1C=C(C(=O)O)C=C(C1OC(C)=O)OC(C)=O | C13H12O8
